US06960583B2
B. 4-(2,4-dichlorophenyl)-7-ethyl-2-methyl-8-nitro-pyrazolo[1,5-a]-1,3,5-triazine
A solution of 4-(2,4-dichlorophenyl)-7-ethyl-2-methyl-pyrazolo[1,5-a]-1,3,5-triazine (653 mg, 2.2 mmol) in acetic anhydride (4 mL) was cooled with stirring to −5 to −10° C. A solution of fuming nitric acid (160 mg, 2.55 mmol) in acetic anhydride (2 mL) was added dropwise over 15 min. The reaction mixture was stirred at the same temperature for 3 h, then it was partitioned between water and ether three times. The combined organic layers were washed with a saturated NaHCO3 solution, dried over MgSO4 and filtered. Solvent was removed in vacuo to provide a solid. Column chromatography (EtOAc:hexanes::1:9 to 1:4) provided a solid (166 mg, 21% yield) after removal of solvent in vacuo: NMR (CDCl3, 300 MHz): δ 7.64 (d, 1H, J=8), 7.63 (d, 1H, J=2), 7.50 (dd, 1H J=8, 2), 3.19 (q, 2H, J=7), 2.94 (s, 3H), 1.32 (t, 3H, J=7).

reactant | 4-(2,4-dichlorophenyl)-7-ethyl-2-methyl-pyrazolo[1,5-a]-1,3,5-triazine | 2.2 mmol, 653 mg | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=2N1N=C(C2)CC)C | C14H12Cl2N4
reactant | nitric acid | 2.55 mmol, 160 mg | [N+](=O)(O)[O-] | HNO3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetic anhydride | 4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(2,4-dichlorophenyl)-7-ethyl-2-methyl-8-nitro-pyrazolo[1,5-a]-1,3,5-triazine | 166 mg, 21% yield | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=2N1N=C(C2[N+](=O)[O-])CC)C | C14H11Cl2N5O2
